US06462038B1
This compound was prepared by General Method 13 from 2-isopropyloxy-7-hydroxy-6-[(2,2,2-trifluoroethyl)amino]-4-(trifluoromethyl)quinoline (1.51 g, 4.10 mmol), K2CO3 (1.16 g, 8.40 mmol) and ethyl bromoacetate (0.719 g, 4.30 mmol) in 16.4 mL DMF to afford 1.57 g (94%) of 7-isopropoxy-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]oxazino[3,2-g]quinolin-2(3H)-one, a light yellow-brown solid, Rf 0.50 (4:1 hexanes:EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.57 (broad s, 1H), 7.48 (s, 1H), 7.11 (s, 1H), 5.53 (hept, 1H, J=6.2), 4.79 (s, 2H), 4.71 (q, 2H, J=8.4), 1.41 (d, 6H).

reactant | 2-isopropyloxy-7-hydroxy-6-[(2,2,2-trifluoroethyl)amino]-4-(trifluoromethyl)quinoline | 4.10 mmol, 1.51 g | C(C)(C)OC1=NC2=CC(=C(C=C2C(=C1)C(F)(F)F)NCC(F)(F)F)O | C15H14F6N2O2
reactant | K2CO3 | 8.40 mmol, 1.16 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 4.30 mmol, 0.719 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 16.4 mL | CN(C)C=O | C3H7NO
product | 7-isopropoxy-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]oxazino[3,2-g]quinolin-2(3H)-one | 1.57 g, 94% | C(C)(C)OC1=NC=2C=C3C(=CC2C(=C1)C(F)(F)F)N(C(CO3)=O)CC(F)(F)F | C17H14F6N2O3
